US04039551
In the manner given in Example 15, 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine is treated with a cold mixture of hydroxylamine and sodium hydride in dimethylformamide to give 8-chloro-1-[(hydroxyamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo [4,3-a][1,4]benzodiazepine.

reactant | 8-chloro-1-(chloromethyl)-6-(o-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=C(C=CC=C3)Cl)C1 | C17H11Cl3N4
reactant | hydroxylamine | NO | H3NO
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-chloro-1-[(hydroxyamino)methyl]-6-(o-chlorophenyl)-4H-s-triazolo [4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CNO)C3=C(C=CC=C3)Cl)C1 | C17H13Cl2N5O
